US07667041B2
Synthesis of (E)-N-(1-benzyl-2-oxopropyl)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylamide
To a methylene chloride (2.0 mL) solution of (E)-N-(1-benzyl-2-hydroxy propyl)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylamide (29.0 mg), Dess-Martin reagent (60.7 mg) was added. After agitating the reaction solution at room temperature for 4 hours and 30 minutes, a saturated sodium bicarbonate water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. After the obtained organic layer was washed with a saturated saline solution, it was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent:ethyl acetate→ethyl acetate ethanol=10:1), and 15.4 mg of the title compound was obtained. The physical properties of the compound are as follows.

reactant | methylene chloride | 2.0 mL | C(Cl)Cl | CH2Cl2
reactant | (E)-N-(1-benzyl-2-hydroxy propyl)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylamide | 29.0 mg | C(C1=CC=CC=C1)C(C(C)O)NC(\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C24H27N3O3
reactant | Dess-Martin reagent | 60.7 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-N-(1-benzyl-2-oxopropyl)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylamide | 15.4 mg | C(C1=CC=CC=C1)C(C(C)=O)NC(\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C24H25N3O3
